US04294960
N.M.R. δppm (DMSO-d6): 2.8-3.7 (2H, m), 4.90 (1H, t, J=4Hz), 5.29 (1H, d, J=4Hz), 5.38 (2H, s), 7.71 (2H, d, J=8Hz), 8.26 (2H, d, J=8Hz). (2) Phosphoryl chloride (2.87 g.) was dropwise added to a solution of N,N-dimethylformamide (1.37 g.) in ethyl acetate (10 ml.) at 5° to 10° C. Ethyl acetate (40 ml.) was added to the solution, and stirred under ice cooling for 40 minutes. To the solution was added 2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetic acid (syn isomer, 3.58 g.), and the solution was stirred at 0° to 5° C. for 40 minutes. The resultant solution was added all at once to a mixture of 4-nitrobenzyl 7-amino-3-hydroxy-3-cephem-4-carboxylate (5 g.), ethyl acetate (50 ml.), trimethylsilylacetamide (14.3 g.) and bis(trimethylsilyl)acetamide (5.8 g.) at -15° C., and stirred at -20° to -15° C. for 1.2 hours. Water (50 ml.) was added to the resultant solution at -25° to -20° C., and stirred until the temperature rise 5° C. The aqueous layer was separated and extracted with ethyl acetate. The ethyl acetate layer and extract were combined, washed with a saturated aqueous solution of sodium chloride and dried over magnesium sulfate. After the solution was concentrated to a volume of 50 ml. under reduced pressure, the precipitates were collected by filtration and washed with ethyl acetate to give 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methyoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate (syn isomer, 3.5 g.), mp 163° C. (dec.).

reactant | Phosphoryl chloride | 2.87 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-formamido-4-thiazolyl)-2-methoxyiminoacetic acid | 3.58 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOC | C7H7N3O4S
reactant | 4-nitrobenzyl 7-amino-3-hydroxy-3-cephem-4-carboxylate | 5 g | NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O6S
reactant | trimethylsilylacetamide | 14.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | bis(trimethylsilyl)acetamide | 5.8 g | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | 1.37 g | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-formamido-4-thiazolyl)-2-methyoxyiminoacetamido]-3-hydroxy-3-cephem-4-carboxylate | 3.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOC | C21H18N6O9S2
